US06380215B1
To a solution of N-[(R)-1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S) -acetylamino-β-alanine ethyl ester (130 mg) in a mixture of ethanol (1.5 ml) and tetrahydrofuran (1.5 ml) was added a solution of lithium hydroxide (11 mg) in water (1.5 ml) under stirring at 0° C. After stirring at ambient temperature for 1 hour, the mixture was acidified with 10% KHSO4 aqueous solution and extracted with ethyl acetate. The extract was washed with water, brine and dried over MgSO4 and evaporated in vacuo to give N-[(R)-1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine as an oil (67 mg).

reactant | N-[(R)-1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S) -acetylamino-β-alanine ethyl ester | 130 mg | C(C)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(CCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)NC(C)=O)=O | C29H42N4O7
reactant | lithium hydroxide | 11 mg | [OH-].[Li+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | water | 1.5 ml | O | H2O
product | N-[(R)-1-{3-(1-benzyloxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-2(S)-acetylamino-β-alanine | 67 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)NC[C@@H](C(=O)O)NC(C)=O | C27H38N4O7
